US08975254B2
b) (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(4-methylpyridin-3-yl)thiophene-2-carboxamide
The title compound was prepared from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.116 g, 0.446 mmol), 5-(4-methylpyridin-3-yl)thiophene-2-carboxylic acid (0.098 g, 0.446 mmol), DIPEA (0.233 ml, 1.337 mmol), HOBt hydrate (0.102 g, 0.668 mmol) and EDCI (0.128 g, 0.668 mmol) as described in the previous Example affording 0.115 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.19 (d, 3H), 2.41 (s, 3H), 4.32 (m, 2H), 4.43 (m, 1H), 6.95 (d, 1H), 7.33 (d, 1H) 7.37 (d, 1H), 7.79 (d, 1H), 7.85 (d, 1H), 7.94 (m, 2H), 8.07 (d, 1H), 8.45 (m, 2H), 8.55 (s, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.446 mmol, 0.116 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 5-(4-methylpyridin-3-yl)thiophene-2-carboxylic acid | 0.446 mmol, 0.098 g | CC1=C(C=NC=C1)C1=CC=C(S1)C(=O)O | C11H9NO2S
reactant | DIPEA | 1.337 mmol, 0.233 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt hydrate | 0.668 mmol, 0.102 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDCI | 0.668 mmol, 0.128 g | CCN=C=NCCCN(C)C | C8H17N3
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(4-methylpyridin-3-yl)thiophene-2-carboxamide | 0.115 g | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1SC(=CC1)C=1C=NC=CC1C | C24H20ClN5OS
